US05834454
A mixture of ethyl 4-methyl-1H-indole-2-carboxylate (70.0 g, 344 mmol), tert-butyl acrylate (53.0 g, 413 mmol), benzyltrimethylammonium hydroxide (5.76 g, 34.4 mmol) and 1,4-dioxane (1,000 ml) was stirred at 60°-62° C. for 8.5 hours. The solvent was distilled off under reduced pressure and water (1,000 ml) and acetic acid (30 ml) were added to the residue, followed by extraction with ethyl acetate (twice). The extract solution was washed with a 5% aqueous sodium hydrogencarbonate solution and dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure and the resulting residue was crystallized from isopropanol (230 ml) to obtain ethyl 1-(2-tert-butoxycarbonylethyl)-4-methyl-1H-indole-2-carboxylate (99.2 g). M.p. 78°-79° C.

reactant | ethyl 4-methyl-1H-indole-2-carboxylate | 344 mmol, 70.0 g | CC1=C2C=C(NC2=CC=C1)C(=O)OCC | C12H13NO2
reactant | tert-butyl acrylate | 413 mmol, 53.0 g | C(C=C)(=O)OC(C)(C)C | C7H12O2
reactant | benzyltrimethylammonium hydroxide | 34.4 mmol, 5.76 g | [OH-].C(C1=CC=CC=C1)[N+](C)(C)C
solvent | 1,4-dioxane | 1,000 ml | O1CCOCC1 | C4H8O2
product | ethyl 1-(2-tert-butoxycarbonylethyl)-4-methyl-1H-indole-2-carboxylate | 99.2 g | C(C)(C)(C)OC(=O)CCN1C(=CC2=C(C=CC=C12)C)C(=O)OCC | C19H25NO4
